US06107094
To a stirred solution of 5-methyl-2-thiouridine (0.500 g, 1.8 mmol) in DMF (10 ml) is added dibutyltin ox-de 0.500 g, 2.0 mmol), tetrabutyl ammonium iodide (0.738 g, 2 mmol), and methyl iodide (1.022 g, 7.2 mmol). The reaction flask is sealed and heated at 50° C. for 16 hours. The mixture is cooled and another portion of methyl iodide is added (1.022 g, 7.2 mmol) and the reaction heated for an additional 16 hours. At the end of this time, the reaction mixture is cooled to room temperature and diluted with methylene chloride and chromatographed using a methylene chloride/methanol gradient. The appropriate fractions are collected and concentrated to give 2'-O-methyl-5-methyl-2-thiouridine.

reactant | 5-methyl-2-thiouridine | 1.8 mmol, 0.500 g | CC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=S)=O | C10H14N2O5S
reactant | dibutyltin | C(CCC)[Sn]CCCC
reactant | methyl iodide | 7.2 mmol, 1.022 g | CI | CH3I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutyl ammonium iodide | 2 mmol, 0.738 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2'-O-methyl-5-methyl-2-thiouridine | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=S)NC(=O)C(=C1)C | C11H16N2O5S
